US04950733
Synthesis of capryloyloxyethyl acrylate (COEA)
A solution of 2-hydroxyethyl caprylate (HEC) (1 mol; 188.3 g) in pyridine (1.25 mol; 98.9 g; 100.7 ml) was added under continuous stirring at 5°-10° C. into a solution of freshly distilled acryloyl chloride (1.12 mol; 101.4 g) in benzene (300 ml). The mixture was further stirred for 2 hours at the reaction temperature, extracted with 800 ml of 2% hydrochloric acid, the emulsion formed was broken by addition of ether and the aqueous layer was repeatedly extracted with ether until the reaction on capryloyloxyethyl acrylate was negative. The combined ether extracts were washed with water, solution of potassium hydrogencarbonate (KHCO3), and water and dried with magnesium sulfate (MgSO4). Ether was removed by distillation under normal pressure and the product was distilled after addition of octylpyrocatechol as an inhibitor. The overall yield of raw product was 74.9%. The obtained fractions contained 60 to 93% of capryloyloxyethyl acrylate. The product with purity 99.8% was obtained by redistillation; b.p. 111° C./66.7 Pa. Elemental analysis for C13H22O4 theory: 64.44% C, 9.15% H; found 64.23% C; 9.41% H. The infrared and 13C-NMR spectra proved the expected structure.

reactant | 2-hydroxyethyl caprylate | 1 mol, 188.3 g | C(CCCCCCC)(=O)OCCO | C10H20O3
reactant | pyridine | 1.25 mol, 100.7 ml, 98.9 g | N1=CC=CC=C1 | C5H5N
reactant | acryloyl chloride | 1.12 mol, 101.4 g | C(C=C)(=O)Cl | C3H3ClO
reactant | ether | CCOCC | C4H10O
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | capryloyloxyethyl acrylate | C(C=C)(=O)OCCOC(CCCCCCC)=O | C13H22O4
